US09388189B2
4-Chloro-5-((3-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine
5-Bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (300 mg, 0.74 mmol) was dissolved in 3 mL dimethylformamide. 3-Methoxybenzenethiol (140 mg, 1.10 mmol), copper(I) iodide (205 mg, 1.1 mmol) and potassium carbonate (152 mg, 1.1 mmol) were added. The reaction vessel was sealed and submitted to three vacuum-nitrogen cycles. The reaction was heated at 70° C. for 5 h. The mixture was poured into water-ice and extracted twice with ethyl acetate. The organics were dried over sodium sulphate, filtered and concentrated under reduced pressure. The crude was purified using SP1® Purification System (0% to 20%, hexane-ethyl acetate) to obtain 128 mg (70% yield) of the title compound as a solid. Purity 83%.

reactant | 5-Bromo-4-chloro-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.74 mmol, 300 mg | BrC1=CN(C=2N=CN=C(C21)Cl)COCC[Si](C)(C)C | C12H17BrClN3OSi
reactant | 3-Methoxybenzenethiol | 1.10 mmol, 140 mg | COC=1C=C(C=CC1)S | C7H8OS
reactant | potassium carbonate | 1.1 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper(I) iodide | 1.1 mmol, 205 mg | [Cu]I
product | 4-Chloro-5-((3-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 128 mg, 70% yield | ClC=1C2=C(N=CN1)N(C=C2SC2=CC(=CC=C2)OC)COCC[Si](C)(C)C | C19H24ClN3O2SSi
